US07960369B2
methyl 4-[[3-(2-phenylethyl) phenyl]methoxy]benzenepropanoate
To a solution of methyl 4-[[3-((E)-2-phenylethenyl) phenyl]methoxy]benzenepropanoate (0.35 g, 0.95 mmol) in methanol (15 mL) and tetrahydrofuran (25 mL) was added platinum oxide (0.018 g, 0.078 mmol), and the mixture was stirred under a hydrogen atmosphere at room temperature for 18 hrs. The catalyst was filtered off, and the filtrate was concentrated. The residue was purified by silica gel column chromatography (ethyl acetate/hexane=15:1) to give the title compound (0.21 g, yield 58%). oil.

reactant | methyl 4-[[3-((E)-2-phenylethenyl) phenyl]methoxy]benzenepropanoate | 0.95 mmol, 0.35 g | C1(=CC=CC=C1)/C=C/C=1C=C(C=CC1)COC1=CC=C(C=C1)CCC(=O)OC | C25H24O3
solvent | methanol | 15 mL | CO | CH4O
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
catalyst | platinum oxide | 0.078 mmol, 0.018 g | [Pt]=O
product | methyl 4-[[3-(2-phenylethyl) phenyl]methoxy]benzenepropanoate | 0.21 g, yield 58% | C1(=CC=CC=C1)CCC=1C=C(C=CC1)COC1=CC=C(C=C1)CCC(=O)OC | C25H26O3
